US04060633
2.78 g. of 1-chloro-3-(4'-amino-4-biphenylyl)-butan-3-ol are dissolved in 30 ml. of 10% hydrochloric acid, a solution of 0.7 g. of NaNO2 in 2 ml. of water is added at 0°-5°, the resulting diazonium salt solution is added slowly dropwise to a hot solution of Cu2Cl2 (obtained by passing SO2 into a hot solution of 2.1 g. of copper sulfate and 2.6 g. of NaCl in 13 ml. of water) and the mixture is heated to 90°-95° for a further 30 minutes, cooled and worked up in the customary manner to give 1-chloro-3-(4'-chloro-4-biphenylyl)-butan-3-ol, m.p. 98° - 100°.

reactant | 1-chloro-3-(4'-amino-4-biphenylyl)-butan-3-ol | ClCCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)N | C16H18ClNO
reactant | hydrochloric acid | Cl | ClH
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | O | H2O
product | 1-chloro-3-(4'-chloro-4-biphenylyl)-butan-3-ol | ClCCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C16H16Cl2O
